US08445684B2
3-[4-[2-[4-(Benzyloxy)phenoxy]ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine
A solution/suspension of 4-[2-[4-(benzyloxy)phenoxy]ethyl]piperidine (220 mg, 0.71 mmol), 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (277 mg, 0.78 mmol, 1.1 equiv.), sodium tert-butoxide (136 mg, 1.42 mmol, 2.0 equiv.), tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (45 mg, 40 μmol, 0.06 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos, 50 mg, 90 μmol, 0.12 equiv.) in anhydrous toluene (20 mL) was stirred overnight at 100° C. under N2. After cooling to room temperature, the mixture was concentrated under vacuum, and the residue was taken up in 500 mL of EtOAc and washed with brine. The organic layer was dried and concentrated in vacuo, and the residue was applied onto a silica gel column, which was eluted with EtOAc/CH2Cl2 1:5 to 1:2 to provide the title compound (300 mg, 72%) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.90 (s, 1H), 7.67 (s, 1H), 7.46-7.34 (m, 5H), 7.08 (s, 1H), 6.93 (d, 2H, J=9.3 Hz), 6.85 (d, 2H, J=9.3 Hz), 5.02 (s, 2H), 4.18-4.13 (m, 3H), 4.00 (t, 2H, J=5.7 Hz), 3.76 (m, 2H), 3.41 (m, 2H), 2.83 (s, 2H), 2.07-2.03 (m, 2H), 1.90-1.72 (m, 3H), 1.77 (m, 3H), 1.49 (s, 9H), 1.40-1.30 (m, 2H), 1.28-1.26 (m, 1H). LC-MS (ESI) m/z 588 (M+H+).

reactant | 4-[2-[4-(benzyloxy)phenoxy]ethyl]piperidine | 0.71 mmol, 220 mg | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCNCC2)C=C1 | C20H25NO2
reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 0.78 mmol, 277 mg, 1.1 equiv. | BrC=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | sodium tert-butoxide | 1.42 mmol, 136 mg, 2.0 equiv. | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 90 μmol, 50 mg, 0.12 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 40 μmol, 45 mg, 0.06 equiv. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 3-[4-[2-[4-(Benzyloxy)phenoxy]ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 300 mg, 72% | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCN(CC2)C=2C=NC=C(C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C35H45N3O5
